US07262212B2
A mixture of 4-(tert-butoxycarbonylamino)-benzyl 4-(2-methyl-6-nitro-2,3-dihydroimidazo[2,1-b]oxazol-2-ylmethyl)piperazine-1-carboxylate (340 mg, 0.66 mmol), trifluoroacetic acid (2 ml) and methylene chloride (10 ml) was stirred at room temperature for 2 hours, and then neutralized with a saturated sodium hydrogencarbonate solution. The organic phase was washed with water and a saturated saline solution in this order, dried over magnesium sulfate and then filtered. The filtrate was concentrated under reduced pressure. To the residue, diethyl ether was added, and the precipitates were filtered off to afford 4-aminobenzyl 4-(2-methyl-6-nitro-2,3-dihydroimidazo[2,1-b]oxazol-2-ylmethyl)piperazine-1-carboxylate (100 mg, yield 37%) as a light yellow powder.

reactant | 4-(tert-butoxycarbonylamino)-benzyl 4-(2-methyl-6-nitro-2,3-dihydroimidazo[2,1-b]oxazol-2-ylmethyl)piperazine-1-carboxylate | 0.66 mmol, 340 mg | CC1(CN2C(O1)=NC(=C2)[N+](=O)[O-])CN2CCN(CC2)C(=O)OCC2=CC=C(C=C2)NC(=O)OC(C)(C)C | C24H32N6O7
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-aminobenzyl 4-(2-methyl-6-nitro-2,3-dihydroimidazo[2,1-b]oxazol-2-ylmethyl)piperazine-1-carboxylate | 100 mg, yield 37% | CC1(CN2C(O1)=NC(=C2)[N+](=O)[O-])CN2CCN(CC2)C(=O)OCC2=CC=C(C=C2)N | C19H24N6O5
